*These models are derived from the SPICE parameters given on the
*Agilent Technologies data sheets

.model 5082-2800 d (BV=75 CJO=1.6p EG=.69 XTI=2 IBV=10u IS=2.2n
+N=1.08 RS=25 M=.5 VJ=.6)

.model 5082-2810 d (BV=25 CJO=.8p EG=.69 XTI=2 IBV=10u IS=1.1n
+N=1.08 RS=10 M=.5 VJ=.6)

.model 5082-2811 d (BV=18 CJO=1p EG=.69 XTI=2 IBV=10u IS=3n
+N=1.08 RS=10 M=.5 VJ=.6)

.model 5082-2835 d (BV=9 CJO=.7p EG=.69 XTI=2 IBV=10u IS=22n
+N=1.08 RS=5 M=.5 VJ=.56)

.model 5082-2303 d (BV=25 CJO=.7p EG=.69 XTI=2 IBV=10u IS=7n
+N=1.08 RS=10 M=.5 VJ=.64)

.model 5082-2900 d (BV=10 CJO=1.1p EG=.69 XTI=2 IBV=10u IS=10n
+N=1.08 RS=15 M=.5 VJ=.64)

.model 5082-2207 d (BV=5 CJO=.2p EG=.69 IBV=10u IS=.3n N=1.08 RS=5
+VJ=.65 XTI=2 M=.5)

.model 5082-2209 d (BV=5 CJO=.2p EG=.69 IBV=10u IS=.3n N=1.08 RS=5
+VJ=.65 XTI=2 M=.5)

.model 5082-2765 d (BV=5 CJO=.2p EG=.69 IBV=10u IS=40n N=1.08 RS=6
+VJ=.5 XTI=2 M=.5)

.model 5082-2774 d (BV=5 CJO=.2p EG=.69 IBV=10u IS=40n N=1.08 RS=6
+VJ=.5 XTI=2 M=.5)

.model 5082-2785 d (BV=5 CJO=.2p EG=.69 IBV=10u IS=40n N=1.08 RS=6
+VJ=.5 XTI=2 M=.5)

.model 5082-2794 d (BV=5 CJO=.2p EG=.69 IBV=10u IS=40n N=1.08 RS=6
+VJ=.5 XTI=2 M=.5)

.subckt HBAT-5400 A C
L1 A 1 2n
C1 1 C 0.08p
D1 1 C HBAT5400
.model HBAT5400 d (BV=40 CJO=3p EG=.55 IBV=100u IS=.1u N=1 RS=2.4 VJ=0.6
+XTI=2 M=0.5)
.ends

.subckt HBAT-5402 A C
L1 A 1 2n
C1 1 C 0.08p
D1 1 C HBAT5402
.model HBAT5402 d (BV=40 CJO=3p EG=.55 IBV=100u IS=.1u N=1 RS=2.4 VJ=0.6
+XTI=2 M=0.5)
.ends

.subckt HBAT-540B A C
L1 A 1 2n
C1 1 C 0.08p
D1 1 C HBAT540B
.model HBAT540B d (BV=40 CJO=3p EG=.55 IBV=100u IS=.1u N=1 RS=2.4 VJ=0.6
+XTI=2 M=0.5)
.ends

.subckt HBAT-540C A C
L1 A 1 2n
C1 1 C 0.08p
D1 1 C HBAT540C
.model HBAT540C d (BV=40 CJO=3p EG=.55 IBV=100u IS=.1u N=1 RS=2.4 VJ=0.6
+XTI=2 M=0.5)
.ends

.model HSCH-5316 d (BV=5 CJO=.2p EG=.69 IBV=10u IS=.3n N=1.08 RS=5 VJ=.65
+XTI=2 M=.5)

.model HSCH-5318 d (BV=5 CJO=.2p EG=.69 IBV=10u IS=.3n N=1.08 RS=5 VJ=.65
+XTI=2 M=.5)

.model HSCH-5312 d (BV=5 CJO=.13p EG=.69 IBV=10u IS=.3n N=1.08 RS=9 VJ=.65
+XTI=2 M=.5)

.model HSCH-5314 d (BV=5 CJO=.13p EG=.69 IBV=10u IS=.3n N=1.08 RS=9 VJ=.65
+XTI=2 M=.5)

.model HSCH-5310 d (BV=5 CJO=.09p EG=.69 IBV=10u IS=.3n N=1.08 RS=13 VJ=.65
+XTI=2 M=.5)

.model HSCH-5330 d (BV=5 CJO=.09p EG=.69 IBV=10u IS=.4n N=1.08 RS=13 VJ=.5
+XTI=2 M=.5)

.model HSCH-5340 d (BV=5 CJO=.09p EG=.69 IBV=10u IS=.4n N=1.08 RS=13 VJ=.5
+XTI=2 M=.5)

.model HSCH-5332 d (BV=5 CJO=.13p EG=.69 IBV=10u IS=40n N=1.08 RS=9 VJ=.5
+XTI=2 M=.5)

.model HSCH-5336 d (BV=5 CJO=.2p EG=.69 IBV=10u IS=40n N=1.08 RS=6 VJ=.5
+XTI=2 M=.5)

.model HSCH-5512 d (BV=5 CJO=.13p EG=.69 IBV=10u IS=.3n N=1.08 RS=9 VJ=.65
+XTI=2 M=.5)

.model HSCH-5511 d (BV=5 CJO=.09p EG=.69 IBV=10u IS=.3n N=1.08 RS=13 VJ=.65
+XTI=2 M=.5)

.model HSCH-5531 d (BV=5 CJO=.09p EG=.69 IBV=10u IS=40n N=1.08 RS=13 VJ=.5
+XTI=2 M=.5)

.subckt HSCH-9161 A C
D1 A C HSCH9161_D1
D2 C A HSCH9161_D2
.model HSCH9161_D1 d (BV=10 CJO=.03p EG=1.42 IBV=1p IS=12u N=1.2 RS=50 VJ=0.26
+XTI=2 M=0.5)
.model HSCH9161_D2 d (BV=10 CJO=.03p EG=1.42 IBV=1p IS=84u N=40 RS=10 VJ=0.26
+XTI=2 M=0.5)
.ends

.model HSCH-9101 d (BV=5 CJO=.04p EG=1.43 IBV=10u IS=.16p N=1.2 RS=5 VJ=.7
+XTI=2 M=.5)

.model HSCH-9201 d (BV=5 CJO=.04p EG=1.43 IBV=10u IS=.16p N=1.2 RS=5 VJ=.7
+XTI=2 M=.5)

.model HSCH-9251 d (BV=5 CJO=.04p EG=1.43 IBV=10u IS=.16p N=1.2 RS=5 VJ=.7
+XTI=2 M=.5)

.model HSCH-9301 d (BV=5 CJO=.04p EG=1.43 IBV=10u IS=.16p N=1.2 RS=5 VJ=.7
+XTI=2 M=.5)

.model HSCH-9351 d (BV=5 CJO=.04p EG=1.43 IBV=10u IS=.16p N=1.2 RS=5 VJ=.7
+XTI=2 M=.5)

.subckt HSMS-2700 A C
L1 A 1 2n
C1 1 C 0.08p
D1 1 C HSMS2700
.model HSMS2700 d (BV=25 CJO=6.7p EG=.55 IBV=100u IS=.14u N=1.04 RS=.65 VJ=0.6
+XTI=2 M=0.5)
.ends

.subckt HSMS-2702 A C
L1 A 1 2n
C1 1 C 0.08p
D1 1 C HSMS2702
.model HSMS2702 d (BV=25 CJO=6.7p EG=.55 IBV=100u IS=.14u N=1.04 RS=.65 VJ=0.6
+XTI=2 M=0.5)
.ends

.subckt HSMS-270B A C
L1 A 1 2n
C1 1 C 0.08p
D1 1 C HSMS270B
.model HSMS270B d (BV=25 CJO=6.7p EG=.55 IBV=100u IS=.14u N=1.04 RS=.65 VJ=0.6
+XTI=2 M=0.5)
.ends

.subckt HSMS-270C A C
L1 A 1 2n
C1 1 C 0.08p
D1 1 C HSMS270C
.model HSMS270C d (BV=25 CJO=6.7p EG=.55 IBV=100u IS=.14u N=1.04 RS=.65 VJ=0.6
+XTI=2 M=0.5)
.ends

.model HSMS-2800 d (BV=75 CJO=1.6p EG=.69 IBV=10u IS=30n N=1.08 RS=30
+VJ=.65 XTI=2 M=.5)

.model HSMS-2802 d (BV=75 CJO=1.6p EG=.69 IBV=10u IS=30n N=1.08 RS=30
+VJ=.65 XTI=2 M=.5)

.model HSMS-2803 d (BV=75 CJO=1.6p EG=.69 IBV=10u IS=30n N=1.08 RS=30
+VJ=.65 XTI=2 M=.5)

.model HSMS-2804 d (BV=75 CJO=1.6p EG=.69 IBV=10u IS=30n N=1.08 RS=30
+VJ=.65 XTI=2 M=.5)

.model HSMS-2805 d (BV=75 CJO=1.6p EG=.69 IBV=10u IS=30n N=1.08 RS=30
+VJ=.65 XTI=2 M=.5)

.model HSMS-2807 d (BV=75 CJO=1.6p EG=.69 IBV=10u IS=30n N=1.08 RS=30
+VJ=.65 XTI=2 M=.5)

.model HSMS-2808 d (BV=75 CJO=1.6p EG=.69 IBV=10u IS=30n N=1.08 RS=30
+VJ=.65 XTI=2 M=.5)

.model HSMS-2810 d (BV=25 CJO=1.1p EG=.69 IBV=10u IS=4.8n N=1.08 RS=10
+VJ=.65 XTI=2 M=.5)

.model HSMS-2812 d (BV=25 CJO=1.1p EG=.69 IBV=10u IS=4.8n N=1.08 RS=10
+VJ=.65 XTI=2 M=.5)

.model HSMS-2813 d (BV=25 CJO=1.1p EG=.69 IBV=10u IS=4.8n N=1.08 RS=10
+VJ=.65 XTI=2 M=.5)

.model HSMS-2814 d (BV=25 CJO=1.1p EG=.69 IBV=10u IS=4.8n N=1.08 RS=10
+VJ=.65 XTI=2 M=.5)

.model HSMS-2815 d (BV=25 CJO=1.1p EG=.69 IBV=10u IS=4.8n N=1.08 RS=10
+VJ=.65 XTI=2 M=.5)

.model HSMS-2817 d (BV=25 CJO=1.1p EG=.69 IBV=10u IS=4.8n N=1.08 RS=10
+VJ=.65 XTI=2 M=.5)

.model HSMS-2818 d (BV=25 CJO=1.1p EG=.69 IBV=10u IS=4.8n N=1.08 RS=10
+VJ=.65 XTI=2 M=.5)

.model HSMS-2820 d (BV=15 CJO=.7p EG=.69 IBV=100u IS=22n N=1.08 RS=6
+VJ=.65 XTI=2 M=.5)

.model HSMS-2822 d (BV=15 CJO=.7p EG=.69 IBV=100u IS=22n N=1.08 RS=6
+VJ=.65 XTI=2 M=.5)

.model HSMS-2823 d (BV=15 CJO=.7p EG=.69 IBV=100u IS=22n N=1.08 RS=6
+VJ=.65 XTI=2 M=.5)

.model HSMS-2824 d (BV=15 CJO=.7p EG=.69 IBV=100u IS=22n N=1.08 RS=6
+VJ=.65 XTI=2 M=.5)

.model HSMS-2825 d (BV=15 CJO=.7p EG=.69 IBV=100u IS=22n N=1.08 RS=6
+VJ=.65 XTI=2 M=.5)

.model HSMS-2827 d (BV=15 CJO=.7p EG=.69 IBV=100u IS=22n N=1.08 RS=6
+VJ=.65 XTI=2 M=.5)

.model HSMS-2828 d (BV=15 CJO=.7p EG=.69 IBV=100u IS=22n N=1.08 RS=6
+VJ=.65 XTI=2 M=.5)

.model HSMS-2829 d (BV=15 CJO=.7p EG=.69 IBV=100u IS=22n N=1.08 RS=6
+VJ=.65 XTI=2 M=.5)

.model HSMS-2860 d (BV=7 CJO=.18p EG=.69 IBV=10u IS=50n N=1.08 RS=5
+VJ=.65 XTI=2 M=.5)

.model HSMS-2862 d (BV=7 CJO=.18p EG=.69 IBV=10u IS=50n N=1.08 RS=5
+VJ=.65 XTI=2 M=.5)

.model HSMS-2863 d (BV=7 CJO=.18p EG=.69 IBV=10u IS=50n N=1.08 RS=5
+VJ=.65 XTI=2 M=.5)

.model HSMS-2864 d (BV=7 CJO=.18p EG=.69 IBV=10u IS=50n N=1.08 RS=5
+VJ=.65 XTI=2 M=.5)

.model HSMS-2865 d (BV=7 CJO=.18p EG=.69 IBV=10u IS=50n N=1.08 RS=5
+VJ=.65 XTI=2 M=.5)
