.SUBCKT mgp11n60ed 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
*Model generated on Sep 18, 98
* MODEL FORMAT: PSpice
*Symmetry IGBT Model (Version 1.0)
*External Node Designations
*Node 1 -> a
*Node 2 -> g
*Node 3 -> k
M1 9 6 8 8 MSUB L=100u W=100u
.MODEL MSUB NMOS LEVEL=1
+VTO=7.66896 KP=0.178375 LAMBDA=2.78095e-08 CGSO=7.93043e-06
RD 7 9 1e-08
RS 4 8 9.00035e-05
Q1 4 7 1 QSUB OFF
.MODEL QSUB PNP
+IS=4.17923e-17 BF=287.139 NF=1.13496 VAF=204072
+IKF=1.95398 ISE=1e-20 NE=2.34671 BR=5.57694
+NR=0.75 VAR=420.603 IKR=1004.73 ISC=2.71219e-11
+NC=1 RB=0.0001 IRB=998.538 RBM=9.99999e-05
+RE=1e-08 RC=0.00100965 XTB=-5.33506e-09 XTI=2.30478
+EG=1.2 CJC=3.88799e-10 VJC=8.05782 MJC=0.9
+CJE=3.88963e-09 VJE=1.49676 MJE=0.9 TF=5.56578e-11
RDS 7 4 1e8
RER 4 3 0.0966696
RG 6 2 11.4206
RL 10 11 1
D2 12 11 DCAP
* Default values used in DCAP:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL DCAP D IS=1e-32 N=50
+CJO=1.21062e-09 VJ=1.21898 M=0.9 FC=0.5
D3 0 11 DL
* Default values used in DL:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL DL D IS=1e-10 N=0.4
VFI2 12 0 0
FI2 6 7 VFI2 -1
EV 10 0 7 6 1
CAP 10 13 1.21062e-09
RCAP 10 14 1
D4 0 14 DL
VFI1 13 14 0
FI1 6 7 VFI1 -1
.ENDS mgp11n60ed
.SUBCKT mmg05n60d 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
*Model generated on Jul 20, 98
* MODEL FORMAT: PSpice
*Symmetry IGBT Model (Version 1.0)
*External Node Designations
*Node 1 -> a
*Node 2 -> g
*Node 3 -> k
M1 9 6 8 8 MSUB L=100u W=100u
* Default values used in MSUB:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RD=0 RS=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MSUB NMOS LEVEL=1
+VTO=3.98124 KP=0.146964 LAMBDA=0 CGSO=7.59347e-07
RD 7 9 0.000496338
RS 4 8 0.00968318
Q1 4 7 1 QSUB OFF
.MODEL QSUB PNP
+IS=1.80075e-17 BF=4.76583 NF=1.5 VAF=1418.53
+IKF=4131.24 ISE=1e-17 NE=1.29229 BR=1.0022
+NR=0.799648 VAR=235.596 IKR=1000 ISC=9.99927e-12
+NC=1.99869 RB=0.651293 IRB=25.956 RBM=0.00908427
+RE=1.00001e-08 RC=0.000966746 XTB=0.179569 XTI=4
+EG=1.2 CJC=4.9851e-11 VJC=0.4 MJC=0.320986
+CJE=9.9702e-10 VJE=0.43822 MJE=0.2 TF=1e-09
RDS 7 4 1e8
RER 4 3 0.000563998
RG 6 2 2
RL 10 11 1
D2 12 11 DCAP
* Default values used in DCAP:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL DCAP D IS=1e-32 N=50
+CJO=4.0072e-11 VJ=0.611724 M=0.641939 FC=0.187906
D3 0 11 DL
* Default values used in DL:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL DL D IS=1e-10 N=0.4
VFI2 12 0 0
FI2 6 7 VFI2 -1
EV 10 0 7 6 1
CAP 10 13 1e-10
RCAP 10 14 1
D4 0 14 DL
VFI1 13 14 0
FI1 6 7 VFI1 -1
.ENDS mmg05n60d
.SUBCKT mgw21n60ed 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
*Model generated on Sep 18, 98
* MODEL FORMAT: SPICE3
*Symmetry IGBT Model (Version 1.0)
*External Node Designations
*Node 1 -> a
*Node 2 -> g
*Node 3 -> k
M1 9 6 8 8 MSUB L=100u W=100u
.MODEL MSUB NMOS LEVEL=1
+VTO=6.98469 KP=0.340983 LAMBDA=0 CGSO=1.56915e-05
RD 7 9 1e-06
RS 4 8 1e-06
Q1 4 7 1 QSUB OFF
.MODEL QSUB PNP
+IS=9.97681e-18 BF=92.3155 NF=0.887594 VAF=136190
+IKF=8.89935 ISE=1e-17 NE=4 BR=0.110118
+NR=0.75 VAR=9388.37 IKR=1162.32 ISC=1e-17
+NC=1 RB=9.99996e-05 IRB=1e-05 RBM=1e-05
+RE=1e-08 RC=1.0002e-08 XTB=0 XTI=2.74066e-05
+EG=1.2 CJC=4.86638e-10 VJC=0.4 MJC=0.2
+CJE=9.73277e-09 VJE=0.4 MJE=0.9 TF=2.10253e-10
RDS 7 4 1e8
RER 4 3 0.0250835
RG 6 2 2
RL 10 11 1
D2 12 11 DCAP
* Default values used in DCAP:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL DCAP D IS=1e-32 N=50
+CJO=2.32135e-09 VJ=1.73824 M=0.878204 FC=0.5
D3 0 11 DL
* Default values used in DL:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL DL D IS=1e-10 N=0.4
VFI2 12 0 0
FI2 6 7 VFI2 -1
EV 10 0 7 6 1
CAP 10 13 5.82943e-09
RCAP 10 14 1
D4 0 14 DL
VFI1 13 14 0
FI1 6 7 VFI1 -1
.ENDS mgw21n60ed
